US07494642B2
An alternate synthesis of the vinylic fluorinated variant of 3,4-cyclopropyl-heptadecanoic acid can be achieved from the ketone compound described above (FIG. 12). A modified version of the mechanism is from Burton and Greenlimb 1975. J. Org. Chem. 40: 2796-2801; and in Schlosser and Zimmermann 1969. Synthesis 1: 75-76. Fluoromethyltriphenylphosphonium iodide was synthesized in a round-bottomed flask fitted with a water-cooled reflux condenser. The flask was charged with triphenylphosphine and fluoroiodomethane in dry benzene. The resulting solution was refluxed for 64 hr with moderate stirring. Upon completion of the reaction, the white insoluble phosphonium salt was collected on a glass funnel, washed with hot benzene, and dried in a vacuum dessicator for 12 hr.

reactant | water | O | H2O
reactant | triphenylphosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | fluoroiodomethane | FCI | CH2FI
solvent | benzene | C1=CC=CC=C1 | C6H6
product | Fluoromethyltriphenylphosphonium iodide | [I-].FC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C19H17FP.HI/c20-16-21(17-10-4-1-5-11-17,18-12-6-2-7-13-18)19-14-8-3-9-15-19;/h1-15H,16H2;1H/q+1;/p-1
